US04910286
To a suspension lithium aluminum hydride (11.2 g) in diethyl ether (500 mL) is added over a period of 30 minutes ethyl 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]propionate (60.0 g) in diethyl ether (100 mL). The mixture is heated at reflux for 3 hours and then quenched by the sequential addition of water (11 mL), 10% aqueous sodium hydroxide (11 mL) and water (66 mL). The resulting suspension is washed with tetrahydrofuran and the filtrate is concentrated to give 48 g of 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxy-phenyl]propanol. Trituration of the residue with heptane gave 46 g of light yellow crystals. The 1H NMR spectrum and field desorption mass spectrum are consistent with the above-specified product.

reactant | lithium aluminum hydride | 11.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]propionate | 60.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCC | C19H30O3
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxy-phenyl]propanol | 48 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCCO | C17H28O2
